US08044066B2
7.2 N-(2-methylbenzothiazol-5-yl)-1-(3-pyridyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide (compound 7)
This compound was prepared according to the experimental protocol described in Example 6.2, starting with ethyl 1-(3-pyridyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate obtained according to the protocol described in step 7.1 and 5-amino-2-methylbenzothiazole. A yellow solid is obtained.

reactant | ethyl 1-(3-pyridyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | N1=CC(=CC=C1)N1C(=CC=2C1=NC=CC2)C(=O)OCC | C15H13N3O2
reactant | 5-amino-2-methylbenzothiazole | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
product | N-(2-methylbenzothiazol-5-yl)-1-(3-pyridyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | CC=1SC2=C(N1)C=C(C=C2)NC(=O)C2=CC=1C(=NC=CC1)N2C=2C=NC=CC2 | C21H15N5OS
